US08536214B2
h) N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)-2-methoxybenzenesulfonamide
To a solution of (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.096 mmol, 30 mg) and triethylamine (0.193 mmol, 0.027 mL, 19.50 mg) in DCM (0.9 mL) was added 2-methoxybenzenesulfonyl chloride (0.096 mmol, 19.91 mg) and the whole stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue purified by RP-HPLC to give a white solid (13.0 mg, 0.027 mmol, 28%). [M+H]+ 482.2.

reactant | (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.096 mmol, 30 mg | NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | triethylamine | 0.193 mmol, 0.027 mL, 19.50 mg | C(C)N(CC)CC | C6H15N
reactant | 2-methoxybenzenesulfonyl chloride | 0.096 mmol, 19.91 mg | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | DCM | 0.9 mL | C(Cl)Cl | CH2Cl2
product | N-(5-((4-(hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)-2-methoxybenzenesulfonamide | 0.027 mmol, 13.0 mg, 28% | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NS(=O)(=O)C1=C(C=CC=C1)OC)C(F)(F)F | C22H22F3N3O4S
